* extracted by klt extract --deck sg13cmos5l

* cell pll_pfd
* pin DN
* pin FB
* pin REF
* pin UP
* pin VDD
* pin VSS
* pin XED_DN_XD5
* pin XED_DN_XN1_mid1
* pin XED_DN_d1
* pin XED_DN_d2
* pin XED_DN_d3
* pin XED_DN_d4
* pin XED_DN_ntmp
* pin XED_UP_XD5
* pin XED_UP_XN1_mid1
* pin XED_UP_d1
* pin XED_UP_d2
* pin XED_UP_d3
* pin XED_UP_d4
* pin XED_UP_ntmp
* pin XLD_RB
* pin XLD_SB
* pin XLD_XNQ_mid1
* pin XLD_XNQB_mid1
* pin XLU_RB
* pin XLU_SB
* pin XLU_XNQ_mid1
* pin XLU_XNQB_mid1
* pin XNR_mid1
* pin net1
* pin net2
* pin reset
* pin reset_d1
* pin reset_d2
* pin reset_raw
* pin set_dn
* pin set_up
.SUBCKT pll_pfd DN FB REF UP VDD VSS XED_DN_XD5 XED_DN_XN1_mid1 XED_DN_d1
+ XED_DN_d2 XED_DN_d3 XED_DN_d4 XED_DN_ntmp XED_UP_XD5 XED_UP_XN1_mid1
+ XED_UP_d1 XED_UP_d2 XED_UP_d3 XED_UP_d4 XED_UP_ntmp XLD_RB XLD_SB
+ XLD_XNQ_mid1 XLD_XNQB_mid1 XLU_RB XLU_SB XLU_XNQ_mid1 XLU_XNQB_mid1 XNR_mid1
+ net1 net2 reset reset_d1 reset_d2 reset_raw set_dn set_up
* device instance $1 r0 *1 2.3,3.11 nfet
X$1 XED_UP_d1 REF VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $2 r0 *1 6.26,3.11 nfet
X$2 XED_UP_d2 XED_UP_d1 VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $3 r0 *1 10.22,3.11 nfet
X$3 XED_UP_d3 XED_UP_d2 VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $4 r0 *1 14.18,3.11 nfet
X$4 XED_UP_d4 XED_UP_d3 VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $5 r0 *1 18.14,3.11 nfet
X$5 XED_UP_XD5 XED_UP_d4 VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $6 r0 *1 22.1,3.11 nfet
X$6 XED_UP_ntmp REF XED_UP_XN1_mid1 VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P
+ AD=0.8P PS=4.8U PD=4.8U
* device instance $7 r0 *1 26.06,3.11 nfet
X$7 XED_UP_XN1_mid1 XED_UP_XD5 VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $8 r0 *1 30.02,3.11 nfet
X$8 set_up XED_UP_ntmp VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $9 r0 *1 33.98,3.11 nfet
X$9 XED_DN_d1 FB VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $10 r0 *1 37.94,3.11 nfet
X$10 XED_DN_d2 XED_DN_d1 VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $11 r0 *1 41.9,3.11 nfet
X$11 XED_DN_d3 XED_DN_d2 VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $12 r0 *1 45.86,3.11 nfet
X$12 XED_DN_d4 XED_DN_d3 VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $13 r0 *1 49.82,3.11 nfet
X$13 XED_DN_XD5 XED_DN_d4 VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $14 r0 *1 53.78,3.11 nfet
X$14 XED_DN_ntmp FB XED_DN_XN1_mid1 VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P
+ AD=0.8P PS=4.8U PD=4.8U
* device instance $15 r0 *1 57.74,3.11 nfet
X$15 XED_DN_XN1_mid1 XED_DN_XD5 VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P
+ AD=0.8P PS=4.8U PD=4.8U
* device instance $16 r0 *1 61.7,3.11 nfet
X$16 set_dn XED_DN_ntmp VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $17 r0 *1 65.66,3.11 nfet
X$17 XLU_SB set_up VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $18 r0 *1 69.62,3.11 nfet
X$18 XLU_RB reset VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $19 r0 *1 73.58,3.11 nfet
X$19 UP XLU_SB XLU_XNQ_mid1 VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $20 r0 *1 77.54,3.11 nfet
X$20 XLU_XNQ_mid1 net1 VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $21 r0 *1 81.5,3.11 nfet
X$21 net1 XLU_RB XLU_XNQB_mid1 VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $22 r0 *1 85.46,3.11 nfet
X$22 XLU_XNQB_mid1 UP VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $23 r0 *1 89.42,3.11 nfet
X$23 XLD_SB set_dn VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $24 r0 *1 93.38,3.11 nfet
X$24 XLD_RB reset VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $25 r0 *1 97.34,3.11 nfet
X$25 DN XLD_SB XLD_XNQ_mid1 VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $26 r0 *1 101.3,3.11 nfet
X$26 XLD_XNQ_mid1 net2 VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $27 r0 *1 105.26,3.11 nfet
X$27 net2 XLD_RB XLD_XNQB_mid1 VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $28 r0 *1 109.22,3.11 nfet
X$28 XLD_XNQB_mid1 DN VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $29 r0 *1 113.18,3.11 nfet
X$29 reset_raw UP XNR_mid1 VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $30 r0 *1 117.14,3.11 nfet
X$30 XNR_mid1 DN VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $31 r0 *1 121.1,3.11 nfet
X$31 reset_d1 reset_raw VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $32 r0 *1 125.06,3.11 nfet
X$32 reset_d2 reset_d1 VSS VSS sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P PS=4.8U
+ PD=4.8U
* device instance $33 r0 *1 136.66,3.11 nfet
X$33 reset reset_d2 VSS VSS sg13_hv_nmos L=0.5U W=4U AS=1.6P AD=1.6P PS=8.8U
+ PD=8.8U
* device instance $34 r0 *1 149.76,3.11 pfet
X$34 XED_UP_d1 REF VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $35 r0 *1 156.72,3.11 pfet
X$35 XED_UP_d2 XED_UP_d1 VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $36 r0 *1 163.68,3.11 pfet
X$36 XED_UP_d3 XED_UP_d2 VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $37 r0 *1 170.64,3.11 pfet
X$37 XED_UP_d4 XED_UP_d3 VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $38 r0 *1 177.6,3.11 pfet
X$38 XED_UP_XD5 XED_UP_d4 VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $39 r0 *1 184.56,3.11 pfet
X$39 XED_UP_ntmp REF VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $40 r0 *1 191.52,3.11 pfet
X$40 XED_UP_ntmp XED_UP_XD5 VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P
+ PS=10.8U PD=10.8U
* device instance $41 r0 *1 198.48,3.11 pfet
X$41 set_up XED_UP_ntmp VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $42 r0 *1 205.44,3.11 pfet
X$42 XED_DN_d1 FB VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $43 r0 *1 212.4,3.11 pfet
X$43 XED_DN_d2 XED_DN_d1 VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $44 r0 *1 219.36,3.11 pfet
X$44 XED_DN_d3 XED_DN_d2 VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $45 r0 *1 226.32,3.11 pfet
X$45 XED_DN_d4 XED_DN_d3 VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $46 r0 *1 233.28,3.11 pfet
X$46 XED_DN_XD5 XED_DN_d4 VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $47 r0 *1 240.24,3.11 pfet
X$47 XED_DN_ntmp FB VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $48 r0 *1 247.2,3.11 pfet
X$48 XED_DN_ntmp XED_DN_XD5 VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P
+ PS=10.8U PD=10.8U
* device instance $49 r0 *1 254.16,3.11 pfet
X$49 set_dn XED_DN_ntmp VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $50 r0 *1 261.12,3.11 pfet
X$50 XLU_SB set_up VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $51 r0 *1 268.08,3.11 pfet
X$51 XLU_RB reset VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $52 r0 *1 275.04,3.11 pfet
X$52 UP XLU_SB VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $53 r0 *1 282,3.11 pfet
X$53 UP net1 VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $54 r0 *1 288.96,3.11 pfet
X$54 net1 XLU_RB VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $55 r0 *1 295.92,3.11 pfet
X$55 net1 UP VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $56 r0 *1 302.88,3.11 pfet
X$56 XLD_SB set_dn VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $57 r0 *1 309.84,3.11 pfet
X$57 XLD_RB reset VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $58 r0 *1 316.8,3.11 pfet
X$58 DN XLD_SB VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $59 r0 *1 323.76,3.11 pfet
X$59 DN net2 VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $60 r0 *1 330.72,3.11 pfet
X$60 net2 XLD_RB VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $61 r0 *1 337.68,3.11 pfet
X$61 net2 DN VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $62 r0 *1 344.64,3.11 pfet
X$62 reset_raw UP VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $63 r0 *1 351.6,3.11 pfet
X$63 reset_raw DN VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U PD=10.8U
* device instance $64 r0 *1 358.56,3.11 pfet
X$64 reset_d1 reset_raw VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $65 r0 *1 365.52,3.11 pfet
X$65 reset_d2 reset_d1 VDD VDD sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $66 r0 *1 381.62,3.11 pfet
X$66 reset reset_d2 VDD VDD sg13_hv_pmos L=0.5U W=10U AS=4P AD=4P PS=20.8U
+ PD=20.8U
.ENDS pll_pfd
