* extracted by klt extract --deck sg13cmos5l

* cell cp_pfet_w5_l0p5
* pin cp_pfet_w5_l0p5_B
.SUBCKT cp_pfet_w5_l0p5 cp_pfet_w5_l0p5_B
* device instance $1 r0 *1 3.7,3.11 pfet
X$1 \$6 \$2 \$3 cp_pfet_w5_l0p5_B sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
* device instance $2 r0 *1 10.46,3.11 pfet
X$2 \$7 \$4 \$5 cp_pfet_w5_l0p5_B sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P PS=10.8U
+ PD=10.8U
.ENDS cp_pfet_w5_l0p5
